US09079853B2
5-chloro-1-ethyl-3-hydroxy-3-((3-methoxypyridin-2-yl)methyl)indolin-2-one
This compound was prepared in an analogous manner to 3-((3-bromopyridin-2-yl)methyl)-3-hydroxy-1-isopentyl-5-methylindolin-2-one using 5-chloro-1-ethylindoline-2,3-dione and 3-methoxy-2-methylpyridine. 1H-NMR δ 8.21 (s, 1H), 7.5 (bs, OH), 7.26 (m, 3H), 6.99 (s, 1H), 6.78 (d, 1H), 3.77 (s, 3H), 3.76 (m, 2H), 3.45 (d, 1H), 3.19 (d, 1H), 1.27 (t, 3H). Calculated mass for C17H17ClN2O3, 332.09. Observed, 333.1 (M+1).

reactant | 3-((3-bromopyridin-2-yl)methyl)-3-hydroxy-1-isopentyl-5-methylindolin-2-one | BrC=1C(=NC=CC1)CC1(C(N(C2=CC=C(C=C12)C)CCC(C)C)=O)O | C20H23BrN2O2
reactant | 5-chloro-1-ethylindoline-2,3-dione | ClC=1C=C2C(C(N(C2=CC1)CC)=O)=O | C10H8ClNO2
reactant | 3-methoxy-2-methylpyridine | COC=1C(=NC=CC1)C | C7H9NO
product | 5-chloro-1-ethyl-3-hydroxy-3-((3-methoxypyridin-2-yl)methyl)indolin-2-one | ClC=1C=C2C(C(N(C2=CC1)CC)=O)(CC1=NC=CC=C1OC)O | C17H17ClN2O3
